US07429660B2
(6-Bromo-thianthren-2-yl)-carbamic acid tert-butyl ester (7.48 g, 18.24 mmol), bis(pinacolato)diboron (6.48 g, 25.54 mmol) and potassium acetate (6.27 g, 63.84 mmol) in 1,4-dioxane (50 ml). To the yellow suspension was then added PdCl2(dppf) (745 mg, 0.91 mmol) and dppf (506 mg, 0.91 mmol). The dark red mixture was heated to 110° C. under a N2 atmosphere for 24 hours. The crude mixture was purified by flash chromatography (silica, dichloromethane) to give [6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thianthren-2-yl]-carbamic acid tert-butyl ester as a viscous brown oil which was used without any further purification.

reactant | (6-Bromo-thianthren-2-yl)-carbamic acid tert-butyl ester | 18.24 mmol, 7.48 g | C(C)(C)(C)OC(NC1=CC=2SC3=CC=CC(=C3SC2C=C1)Br)=O | C17H16BrNO2S2
reactant | bis(pinacolato)diboron | 25.54 mmol, 6.48 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 63.84 mmol, 6.27 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.91 mmol, 745 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.91 mmol, 506 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | [6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thianthren-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=2SC3=CC=CC(=C3SC2C=C1)B1OC(C(O1)(C)C)(C)C)=O | C23H28BNO4S2
